Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
"I drink too much."

 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
History of Present Illness from ED consult note by Dr. ___:
     "Ms. ___ is a ___ F with a history of depression and
alcohol use disorder as well as  breast and colon ___ who
self-presents to ___ seeking detox and possibly dual diagnosis
treatment. She reported SI to ED staff. Psychiatry is consulted
for a safety evaluation.
     Throughout the interview, Ms. ___ is ruminative on her
___ diagnosis and treatment course.  She places events that
have occurred over the past few years, such as escalations in
drinking or seeing new treaters, in the context of a highly
detailed timeline of events related to her ___ course. She
says she ruminates on her ___ often.
     She comes in today at the urging of Dr. ___,
psycho-oncologist at ___ Ms. ___ is seeing for a short
term. Ms. ___ has been a ___ patient for a few years. Breast
___ ___, colon ___ ___. For breast ___, had bilateral
lumpectomy --> no clear margins --> bilateral mastectomy.
Relapsed on alcohol in ___ after ___ years sober, thinking "I
deserve a drink." She started drinking a glass of wine or two
here and there. Then she was diagnosed with colon ___ in 
___.
Alcohol use started to escalate, even during chemotherapy, which
took place from ___. During her colon ___ workup, 
she
tested for positive Lynch syndrome mutation MSH6. Last month, 
She
had a 6 month CT scan 1 month ago, which was fine, constantly
worries if her ___ will recur.  She becomes tearful when she
discusses this. 
     Her drinking problem date back to age ___. It spiked in ___,
around her college years, but got better in her late ___. Got
especially bad s/p kids, as she experienced a post-partum
depression that she was too embarrassed about to have treated.
She eventually completed a 30 day program at ___ in
___ and was sober until the above described relapse. Her
drinking and depression got especially severe at beginning ___.
She wasn't getting drunk enough off of a bottle of wine so
switched to vodka. Currently, she is an every day drinker,
drinking ~ ___ of a fifth of vodka per day. 
     Regarding her depression, she endorses feeling very angry
and depressed, anhedonia, low motivation, low energy,
hopelessness, and insomnia. She is fed up with "everything",
feels as if she's dying soon so it doesn't matter that she's
hurting herself / increasing likelihood of ___ recurrence by
drinking. She has had active suicidality on and off, 
particularly
around holidays. Currently, she is passively suicidal.
     Additional stressor includes that she will likely divorce
her husband soon. They are separated though they still live
together. She gets no support from him.
     Denies symptoms of mania or psychosis."
Deac 4 Initial Resident Accept:

Interview On Unit:
Pt is a ___ yo woman with history of alcohol use disorder,
depression, and Lynch syndrome who presented to the ED seeking
alcohol detoxification and treatment for depression. She 
confirms
events mentioned in the above HPI, and relates a history of
increasing alcohol consumption and worsening depressive symptoms
over the past few months. Pt states that she recently achieved
remission after colon and breast ___ dx, for which she
received treatment at ___. Since recovering, she feels
that she has "lost a support group" among her oncology providers
and that her alcoholism and depression have paradoxically gotten
worse since that time.

Pt has been drinking 0.5 of a fifth of vodka per day for a few
months now. When she stops drinking, she experiences
tremulousness and nausea/vomiting. She denies any history of
hospitalization for alcohol withdrawal and denies any history of
seizures. Withdrawal symptoms have improved since she first
presented to the ED, and she reports no subjective symptoms
during interview. Pt agreed to inform staff if withdrawal
symptoms worsen. Her last drink was around ___ the evening of
___.

Pt describes periods of low mood and hopelessness where she is
unable to concentrate and has poor sleep. These symptoms have
been present for many decades, and predate the onset of her
alcohol consumption. She believes that it was depression which
led her to "medicate myself with alcohol." Her depression has
reportedly made it difficult for her to hold steady employment,
and she is currently unemployed.

Patient endorses passive SI by means of her alcoholism. She
denies SI with a plan, HI, and AVH. Agreed to safety contract
with staff.

 
Past Medical History:
Past psychiatric history: per ED consult note by Dr. ___ --> confirmed by patient on unit interview 

Diagnoses: Depression, starting seeing therapist in ___ first
psychiatrist in ___. Undiagnosed post-partum depression that 
she
got through on her own.
Hospitalizations:
- Never hospitalized
- IOP in ___ in ___ for ~ 2 weeks (didn't finish d/t breast
___ treatment)
Current treaters and treatment:
- Psychiatrist: Dr. ___ @ Community Counseling
- Therapist: ___ @ Community Counseling
Medication and ECT trials: venlafaxine, bupropion, trazodone
Self-injury: denies
Harm to others: denies
Access to weapons: denies

Past medical history:
- Breast ___ s/p mastectomy
- Colon ___ s/p resection and chemotherapy
- Lynch syndrome
 
Social History:
Substance use history:
- EtOH: Stared drinking at age ___. Escalation in college/early
___ before tapering down. Escalation again after having kids. 30
day program at ___ in ___, sober until ___.
Steady escalation to current level of drinking half a fifth 
every
day. Pt states most recent escalation began after her ___ 
went
into remission.
- Tobacco: denies
- Marijuana: past rare use
- Illicits: has tried cocaine, some version of crystal meth,
around age ___

Personal and Social History:
___
Family History:
Family psychiatric history: none reported
- No FHx suicide attempts or psych hospitalizations that she
knows of
- Sister who is on anti-depressants, anti-anxiety
- Mother: alcoholism, suspected depression or borderline
personality
- MGF and multiple maternal uncles with alcoholism

FORENSIC HISTORY: ___
Physical Exam:
VS: T:97.8   BP:122/86 HR:88 RR:20 O2:99 
 General: NAD
 HEENT: PERRL, MMM, OP clear.
 Neck: Supple. No adenopathy or thyromegaly.
 Back: No significant deformity, no focal tenderness
 Lungs: CTAB; no crackles or wheezes.
 CV: RRR; no m/r/g
 Abdomen: Soft, NT, ND.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: Warm and dry, no rash or significant lesions.
Neuro-
CN: 
      pupils symmetry and responsiveness to light and
accommodation: pupils symmetric and responsive to light and
accommodation
     EOM: intact
     tongue: midline, no atrophy
Motor: strength grossly intact, lifts self up onto exam table
DTRs: patellar reflexes 1+ b/l
Sensation: grossly intact
Gait: normal gait

Neuropsychiatric Examination:
MENTAL STATUS EXAM:
-Appearance: Well groomed woman who appears stated age,
 sitting up in chair, in no acute distress, wearing hospital
 gown.
-Behavior: Calm and cooperative with interview, very poor eye
 contact, forthcoming, slightly restless, answers questions
appropriately. Not responding to internal stimuli
-Speech: abundant speech, not pressured, normal rate/rhythm/tone
-Mood and Affect: "a little nervous", affect congruent and with
normal range
-Thought process: circumstantial, at times tangential
-Thought Content: rumination over medical problems, passive SI,
denies SI with a plan/HI/AVH
-Judgment and Insight: poor/fair
  
 COGNITIVE EXAM:
 Orientation: alert to person, place, time, situation
 Attention/concentration: grossly intact
 Memory: long term memory intact, short term memory grossly
intact
 Language: fluent, ___
 Fund of knowledge: not assessed
 
Pertinent Results:
___ 01:25AM   GLUCOSE-93 UREA N-6 CREAT-0.7 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-25 ANION GAP-17
___ 01:25AM   estGFR-Using this
___ 01:25AM   ALT(SGPT)-28 AST(SGOT)-25 ALK PHOS-99 TOT 
BILI-0.2
___ 01:25AM   ALBUMIN-4.2 CALCIUM-8.9 PHOSPHATE-3.2 
MAGNESIUM-2.2
___ 01:25AM   VIT B12-185*
___ 01:25AM   ASA-NEG ETHANOL-95* ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:25AM URINE  HOURS-RANDOM
___ 01:25AM URINE  HOURS-RANDOM
___ 01:25AM URINE  UCG-NEGATIVE
___ 01:25AM URINE  GR HOLD-HOLD
___ 01:25AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:25AM   WBC-3.4* RBC-3.77* HGB-12.6 HCT-38.5 MCV-102* 
MCH-33.4* MCHC-32.7 RDW-12.9 RDWSD-48.2*
___ 01:25AM   NEUTS-52.6 ___ MONOS-5.3 EOS-2.4 
BASOS-0.3 IM ___ AbsNeut-1.79 AbsLymp-1.33 AbsMono-0.18* 
AbsEos-0.08 AbsBaso-0.01
___ 01:25AM   PLT COUNT-155
___ 01:25AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:25AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-LG
___ 01:25AM URINE  RBC-<1 WBC-14* BACTERIA-FEW YEAST-NONE 
EPI-1
 
Brief Hospital Course:
Ms. ___ is a ___  yo F c h/o Lynch Syndrome c/b colon ca 
s/p resction and preventive hysterectomy/bilateral oophorectomy, 
breast ___ s/p mastectomy and chemotherapy, alcohol use d/o 
and a depressive d/o c comorbid anxiety who presented at the 
behest of one of her outpatient providers for worsening 
depressed mood and increasing alcohol use. Interviews notable 
for longstanding depressed mood, self medication c alcohol but 
more recent worsening of depressed mood accompanied by 
guilt/hopelessness, anhedonia, low energy/motivation, low 
appetite, sleep disturbance, intermittent primarily passive SI 
and considerable rumination regarding ___ and recurrence all 
in the context of multiple ongoing psychosocial stressors 
(marital issues, family dynamics, medical condition). MSE 
notable for dysphoric but reactive affect with otherwise linear 
thought process and absent evident internal preoccupation. 
Family history notable for no known bipolar or schizophrenia 
spectrum illness. Constellation of findings is concerning for a 
mood disturbance c possible comorbid anxiety d/o and exacerbated 
by ongoing alcohol use d/o. Differential is as follows: 
persistent depressive d/o +/-/vs major depressive episode or 
substance related depressive d/o vs depressive d/o d/t another 
medical condition (postsurgical menopause) vs much less likely 
bipolar spectrum illness, depressive episode;  unspecified 
anxiety d/o: r/o GAD vs PTSD vs adjustment d/o vs anxious 
features of major depression vs substance related anxiety d/o. 
Patient also noted some baseline irritability/impulsivity even 
during periods of sobriety; however, despite this symptom, she 
does not describe any prior episodes consistent c 
hypomania/mania. Additionally, patient mentioned previous 
paranoid ideation (concern re being following by cars or re food 
being poisoned) and possible perceptual disturbances (auditory 
hallucinations), the former while sober, the latter while 
actively drinking alcohol; however, these symptoms were not 
apparent during this admission, and based on current evaluation 
a psychotic depression although possible appears less likely.

Risk factors include age, marital status (separated), 
race/ethnicity, substance use, mood disturbance, chronic medical 
condition and unemployment. Protective factors partially 
mitigate her primarily chronic risk and include the following: 
improved mood, help seeking behavior, parental responsibility, 
family/social support, outpatient providers, some degree of 
intact insight/judgment, future orientation, stable housing, 
ability to navigate the healthcare system and ability to engage 
in safety planning. As such, patient does not appear to be at 
elevated risk of harm to self/others, does not appear to be 
unable to care for self and warrants transition back to her 
community supports.

#Legal/Safety: On admission, CV signed/accepted, and patient 
placed on q15min checks, green sharps and unit restriction. 
Patient did not exhibit any unsafe behaviors and did not require 
physical, mechanical or chemical restraint.

Psych
#Depressive disorder, most likely persistent depressive disorder 
c superimposed major depressive episode: On admission, patient 
endorsed depressed mood, guilt/hopelessness, anhedonia, low 
energy/motivation, low appetite, sleep disturbance, intermittent 
primarily passive SI and considerable anxiety/rumination
regarding ___ recurrence.
- Team engaged patient in individual, group, occupational and 
milieu therapy; patient readily engaged in individual 
interactions and attended some groups without prompt.
- continued home Bupropion 450 mg PO daily
- continued home Venlafaxine 225 mg PO daily
- Given her self-reported affective instability/irritability, 
team discussed the risks/benefits of, indications for and 
alternatives to (including no medication) Lamotrigine, and 
patient consented to initiation of Lamotrigine 25 mg PO qHS, 
which she tolerated without issue.

While hospitalized, the patient underwent testing c the 
Personality Assessment Inventory (___), which demonstrated some 
somatic/health concern (consistent c ___ 
experience/diagnoses), significant depression, significant 
alcohol use, possible psychotic vs personality features 
(specifically, some paranoid resentment; fit patient's prior 
experience of paranoid ideation, feeling as though cars are 
following or someone poisoned her food), significant stress, 
limited support, some degree of passivity, trauma, poor self 
esteem, some affective instability, negative 
relationships/difficulty c interpersonal relationships and some 
difficulty c thought organization. This assessment largely fit 
the history provided by the patient and collateral provided by 
her outpatient providers.

With regard to anxiety, patient does endorse considerable social 
anxiety, noting that she began drinking more when her children 
entered grade school to cope c the anxiety and exclusivity of 
the parental peer group at her children's school. She also notes 
difficulty making eye contact, which she attributes to both 
discomfort and to the need to focus and organize her thoughts to 
express herself and to hear others, which may signal the 
presence of a nonverbal learning disability. Additionally, 
patient notes desire for intimacy and closer relationships; 
however, she notes relatively limited instances in which this 
occurred thus far in her life. She cites differences in 
interests as a child and fear judgment, rejection, misspeaking, 
embarrassment and being misunderstood as reasons for this 
difficulty c interpersonal interaction. In this way, patient's 
presentation appears more consistent c social anxiety disorder c 
contributions from the anxiety generated by her underlying 
medical condition, fear of ___ recurrence or new ___, 
substance use, complex family dynamics and underlying 
depression.

On discharge, patient endorsed improved mood, increased 
hopefulness, improved energy, motivation, appetite and sleep and 
denied safety concerns; moreover, she appeared brighter and more 
reactive and was able to engage in aftercare and safety 
planning.
Ms. ___ clearly denied any side effects from Lamictal. She is 
aware of it's side effects (including skin rash).
Considering clinical observations and psychological testing, we 
obtained some additional date about pt's development. Ms. ___ 
clearly denied any academic difficulties, denied sx's suggestive 
for NVLD. She actually was a very good student. However, she did 
mention that Math her weaker subject. She still did reasonably 
well with it. she denied any R/L confusion. She didn't have 
problems with eye-hand coordination. E.g., she did reasonably 
well with soft ball (played in church ___ school). She 
further recalled that she was a day dreamer. She was 
procrastinating on tasks. However, she was able to finish 
projects in last moment and had actually good grades.

In the future, Ms. ___ and ___ providers could consider 
neuro-psychological testing to confirm or reject dx of ADD. 

In future, given her past possibly psychotic experience 
(paranoid ideation and possibly even perceptual disturbances) 
concerning for a psychotic depression, it may be worthwhile to 
consider adding Abilify to augment the existing antidepressant 
regimen, help c mood lability and to address any thought 
disorganization, paranoid ideation or perceptual disturbance.

Family meeting with pt and her husband was held on the d/c day. 
Pt and her ex husband had opportunity to ask questions. Provided 
pt with psychoeducation about additional resources (including 
NAMI and SAMHSA).

#Alcohol use disorder:
- Patient initially treated c CIWA driven PRN Diazepam and 
offered thiamine, folate, and multivitamin supplementation.
- Provided patient c alcohol use cessation counseling/support.
- Patient to f/u psychiatrist, therapist, PCP, PHP and AA for 
further support surrounding her drinking.

Medical
#Low Vitamin B12: B12 185, Hb/Hct 12.6/38.5 (normal) but MCV 102
-started Cyanocobalamin 1000 mcg PO daily

#Misc:
-continued home Vit D ___ U PO daily
-continue home ASA81 mg PO daily

Collateral:
Dr. ___ (psychiatrist) ___:  has seen 
the patient for about a year and a half. Multiple stressors: 
breast ___, Lynch Syndrome, surgery, chemotherapy, h/o 
alcohol use, separation from husband but living together d/t 
financial reasons. Patient reportedly did well on Bupropion 
before, but it was stopped while on Tamoxifen d/t med-med 
interaction. However, after oophorectomy and
discontinuation of Tamoxifen, Bupropion restarted. Patient 
initially seemed to be doing better. However, she also 
reportedly started to drink more and has seen therapist less 
frequently since completing chemotherapy. 

Diagnostically, patient's presentation/history has been more 
consistent c unipolar depression c contributions from alcohol 
and psychosocial stressors. Provider has not seen patient in ___ 
months; however, she recently left message stating she was not
doing well. Despite all of the stressors, her children are 
definitely a positive or a strength. Losing business she shared 
c sister and not working also have been difficult. Provider felt 
___ seems reasonable given the self-reported 
irritability without clear hypomanic/manic episodes. Provider 
also in agreement that return to increased frequency of therapy 
visits would be of benefit.

Dr. ___ (___ psychosocial oncology consultant) 
___: Noted that met c patient once and thought patient 
may have been intoxicated during interview. At least one recent 
stressor is patient's anxiety around children's genetic testing 
for Lynch Syndrome. Provider told her to present to ___ when 
she had called stating she was in crisis. During one in person 
encounter, patient had stated that in ___ she experienced a 
couple episodes of 'paranoia' (thought food was poisoned or 
people following in a car) reportedly while sober. More recently 
while drinking, patient reportedly possible experienced auditory 
hallucinations. If there's concern for a psychotic depression, 
would be worth considering an atypical antipsychotic like 
Abilify to augment. Provider also noted possible contribution 
from surgical menopause
following bilateral oophorectomy. Patient relayed nothing c/f 
bipolar c exception of sister c possible anxiety and ?bipolar 
illness. Provider felt ___ would be reasonable 
particularly if patient can get behind it given concern 
regarding the self-reported irritability. Provider explained 
role as consultant but stated she is happy to meet c patient 
again following genetic testing of children; however, would 
encourage patient to continue c her primary team in ___. 
Patient can call to schedule an appointment ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Venlafaxine XR 225 mg PO DAILY 
2. BuPROPion XL (Once Daily) 450 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Cyanocobalamin 1000 mcg PO DAILY  
2.  FoLIC Acid 1 mg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Thiamine 100 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  BuPROPion XL (Once Daily) 450 mg PO DAILY  
7.  Venlafaxine XR 225 mg PO DAILY  
8.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Persistent depressive disorder with superimposed major 
depressive episode
Alcohol use disorder
R/O ADD (mild)

 
Discharge Condition:
Neurological:  
 *station and gait: normal/normal
 *tone and strength: normal/intact
 abnormal movements: none appreciated

Cognition: 
 Wakefulness/alertness: awake and alert 
 *Attention: attentive to interview
 *Orientation: oriented to interview
 *Memory: grossly intact
 *Fund of knowledge:  grossly average 
 *Speech: ___ drawl, regular rate, rhythm, volume
 *Language: fluent, normal comprehension
 
Mental Status:
 *Appearance:  appears reported age, dressed in casual attire,
adequate grooming/hygiene
 Behavior: pleasant, cooperative, intermittent but improved eye 
contact
 *Mood and Affect: 'better'/congruent, brighter, more reactive
 *Thought process / *associations:  linear, coherent, no LOA
appreciated
 *Thought Content: denied SI/HI, AVH, delusional
ideation and did not appear RTIS
 *Judgment and Insight:  fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___